datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"NC(=O)Nc1[nH]c[n+:21]([H:20])c1C(=O)[O-].O=[N+]([O-])c1ccc(B(O)[O-:10])cc1>>NC(=O)Nc1[nH]c[n:21]c1C(=O)[O-].O=[N+]([O-])c1ccc(B(O)[O:10][H:20])cc1 10=20;20,21=21",
"CC(=O)OC(C)C[N+:21](C)(C)[H:20].Cc1ccc([O-:10])cc1>>CC(=O)OC(C)C[N:21](C)C.Cc1ccc([O:10][H:20])cc1 10=20;20,21=21",
"C=C[C@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](O)c1cc[n+:21]([H:20])c2ccccc12.CN1CCCC[N:10]1C>>C=C[C@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](O)c1cc[n:21]c2ccccc12.CN1CCCC[N+:10]1(C)[H:20] 10=20;20,21=21",
"[H:20][NH+:21]1CCN(CC1)CCO.C[N+]1=CC=C(C=C1)[CH-:10]C(=O)C2=CC=CC=C2>>[H:20][CH:10](C1=CC=[N+](C=C1)C)C(=O)C2=CC=CC=C2.C1CN(CC[NH:21]1)CCO 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=CC([N+](=O)[O-])=C2)[H:20])=C1.O=C([O-])C[O-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=CC([N+](=O)[O-])=C2)=C1.O=C([O-])C[O:10][H:20] 10=20;20,21=21",
"[S-]c1c2[nH]cnc2nc[n+:21]1[H:20].c1ccc(CC[NH2:10])cc1>>[S-]c1c2[nH]cnc2nc[n:21]1.c1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"CCCCB(O)[O:21][H:20].C[n+]1c([O-])cc[n:10]c1[O-]>>CCCCB(O)[O-:21].C[n+]1c([O-])cc[n+:10]([H:20])c1[O-] 10=20;20,21=21",
"O=C([O-])C[N:10](CC(=O)[O-])Cc1cc([N+](=O)[O-])ccc1[O-].[O-]c1c2ccccc2cn[n+:21]1[H:20]>>O=C([O-])C[N+:10](CC(=O)[O-])(Cc1cc([N+](=O)[O-])ccc1[O-])[H:20].[O-]c1c2ccccc2cn[n:21]1 10=20;20,21=21",
"Nc1[nH][n:10]c(N)c1/N=N/c1ccc(C(=O)O)cc1.O=C(c1ccccc1)N(c1ccccc1)[O:21][H:20]>>Nc1[nH][n+:10]([H:20])c(N)c1/N=N/c1ccc(C(=O)O)cc1.O=C(c1ccccc1)N(c1ccccc1)[O-:21] 10=20;20,21=21",
"Cc1cc[n:10]c2ccccc12.O=C(c1c(Cl)cccc1[N+](=O)[O-])[O:21][H:20]>>Cc1cc[n+:10]([H:20])c2ccccc12.O=C(c1c(Cl)cccc1[N+](=O)[O-])[O-:21] 10=20;20,21=21",
"O=C([O-])CCC#CC#CCCCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>O=C([O-])CCC#CC#CCCCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC#CCC(=O)[O:21][H:20].C[NH:10]C>>CC#CCC(=O)[O-:21].C[NH+:10](C)[H:20] 10=20;20,21=21",
"CC[N+:21](CC)(CCC#N)[H:20].O=C([O-])[C@@H]1CC[C@@H](C(=O)[O-:10])[Se]1>>CC[N:21](CC)CCC#N.O=C([O-])[C@@H]1CC[C@@H](C(=O)[O:10][H:20])[Se]1 10=20;20,21=21",
"Cc1cc(C)[n:10]c2ccccc12.Nc1cc[nH+]c([O-])[n+:21]1[H:20]>>Cc1cc(C)[n+:10]([H:20])c2ccccc12.Nc1cc[nH+]c([O-])[n:21]1 10=20;20,21=21",
"C[Si](C)(C)CCCCCC(=O)[O:21][H:20].Cc1ccc([N:10]2CCCC2)cc1>>C[Si](C)(C)CCCCCC(=O)[O-:21].Cc1ccc([N+:10]2([H:20])CCCC2)cc1 10=20;20,21=21",
"C/C=C/CC(=O)[O:21][H:20].CC(=O)C(C[N:10]1CCOCC1)=NO>>C/C=C/CC(=O)[O-:21].CC(=O)C(C[N+:10]1([H:20])CCOCC1)=NO 10=20;20,21=21",
"CC(=O)n1c[n:10]c2ccccc21.CN(C)c1sc([N+](=O)[O-])c[n+:21]1[H:20]>>CC(=O)n1c[n+:10]([H:20])c2ccccc21.CN(C)c1sc([N+](=O)[O-])c[n:21]1 10=20;20,21=21",
"COCC[NH2+:21][H:20].COc1c(C(=O)[O-:10])oc2ccccc12>>COCC[NH2:21].COc1c(C(=O)[O:10][H:20])oc2ccccc12 10=20;20,21=21",
"Nc1nc2[nH]cnc2c([O-:10])[nH+]1.O=C1NOCC1[NH2+:21][H:20]>>Nc1nc2[nH]cnc2c([O:10][H:20])[nH+]1.O=C1NOCC1[NH2:21] 10=20;20,21=21",
"CCNC(=O)C[S:21][H:20].S=C1NC(c2ccccc2)=C(SCc2ccccc2)[N-:10]1>>CCNC(=O)C[S-:21].S=C1NC(c2ccccc2)=C(SCc2ccccc2)[N:10]1[H:20] 10=20;20,21=21",
"C1=C(c2nc3ccccc3o2)C2CC[N+:21]1([H:20])CC2.C[N:10](C)CC(CSCc1ccccc1)SCc1ccccc1>>C1=C(c2nc3ccccc3o2)C2CC[N:21]1CC2.C[N+:10](C)(CC(CSCc1ccccc1)SCc1ccccc1)[H:20] 10=20;20,21=21",
"N#Cc1cccc([N:21](S(=O)(=O)c2ccccc2)[H:20])c1.NCc1ccccc1S(=O)(=O)[NH-:10]>>N#Cc1cccc([N-:21]S(=O)(=O)c2ccccc2)c1.NCc1ccccc1S(=O)(=O)[NH:10][H:20] 10=20;20,21=21",
"CC[NH:10]CCC(=O)[O-].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC[NH+:10](CCC(=O)[O-])[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCOc1cc[n+:21]([H:20])c([O-])n1.Nc1ccc([N-:10]S(=O)(=O)c2ccccc2)cc1>>CCOc1cc[n:21]c([O-])n1.Nc1ccc([N:10](S(=O)(=O)c2ccccc2)[H:20])cc1 10=20;20,21=21",
"CC1=C(Cc2c(C)n(C)[n+](-c3ccccc3)c2[O-:10])C(=O)N(c2ccccc2)N1C.Cc1ccc([S:21][H:20])cc1>>CC1=C(Cc2c(C)n(C)[n+](-c3ccccc3)c2[O:10][H:20])C(=O)N(c2ccccc2)N1C.Cc1ccc([S-:21])cc1 10=20;20,21=21",
"CC(C)n1nn[n+:21]([H:20])c1N.c1ccc2[nH+]c([O-:10])[nH]c2c1>>CC(C)n1nn[n:21]c1N.c1ccc2[nH+]c([O:10][H:20])[nH]c2c1 10=20;20,21=21",
"Cc1cc(C)nc([N:21](S(=O)(=O)c2ccc(O)cc2)[H:20])n1.O=[N+]([O-])c1ccc2[nH]c(CCl)[n:10]c2c1>>Cc1cc(C)nc([N-:21]S(=O)(=O)c2ccc(O)cc2)n1.O=[N+]([O-])c1ccc2[nH]c(CCl)[n+:10]([H:20])c2c1 10=20;20,21=21",
"CCCCCN[NH2+:21][H:20].C[n+]1cccc([O-:10])c1>>CCCCCN[NH2:21].C[n+]1cccc([O:10][H:20])c1 10=20;20,21=21",
"C1C[NH:10]CCN1.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C1C[NH+:10]([H:20])CCN1.N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"Cc1ccc2c(c1)c(N1CCOCC1)c1c([n+:21]2[H:20])CCC1.Cc1cccc(CN(C)C)c1[O-:10]>>Cc1ccc2c(c1)c(N1CCOCC1)c1c([n:21]2)CCC1.Cc1cccc(CN(C)C)c1[O:10][H:20] 10=20;20,21=21",
"CC(C)([NH3+])/C(N)=[S+:21]\[H:20].Cc1cc[n:10]c(C)c1>>CC(C)([NH3+])C(N)=[S:21].Cc1cc[n+:10]([H:20])c(C)c1 10=20;20,21=21",
"CC(C)c1ccc(C(=O)[O:21][H:20])cc1.CCCCCC[N:10](CCO)CC(O)CC>>CC(C)c1ccc(C(=O)[O-:21])cc1.CCCCCC[N+:10](CCO)(CC(O)CC)[H:20] 10=20;20,21=21",
"C[NH:10]CCCNC(=O)/C=N/[O-].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C[NH+:10](CCCNC(=O)/C=N/[O-])[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
